US03966966
A stirred mixture of 2-methyl-2-(2-thienyl)-4,5-dichloro-6-methoxyindan-1,3-dione (3.81 g., 0.0112 mole) and pyridine hydrochloride (36 g.) is heated at 175°C. for one half hour, then poured into crushed ice-water (500 ml.) to give 2-methyl-2-(2-thienyl)-4,5-dichloro-6-hydroxyindan-1,3-dione.

reactant | 2-methyl-2-(2-thienyl)-4,5-dichloro-6-methoxyindan-1,3-dione | 0.0112 mole, 3.81 g | CC1(C(C2=CC(=C(C(=C2C1=O)Cl)Cl)OC)=O)C=1SC=CC1 | C15H10Cl2O3S
reactant | pyridine hydrochloride | 36 g | Cl.N1=CC=CC=C1
product | 2-methyl-2-(2-thienyl)-4,5-dichloro-6-hydroxyindan-1,3-dione | CC1(C(C2=CC(=C(C(=C2C1=O)Cl)Cl)O)=O)C=1SC=CC1 | C14H8Cl2O3S
